US04663333
Preparation of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-methyl-N-[2-(2-pyridinyl)ethyl]propanamide
N-methyl-N-[2-(2-pyridinyl)ethyl]-2-propenamide (0.95 g, 0.005 mole) was dissolved in methanol (200 ml) containing 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (1.19 g, 0.005 mole). After addition of triethylamine (0.5 ml), the solution was stirred at room temperature overnight. The solvent was removed by a nitrogen stream to give a residue which was purified by chromatography on silica to give the title compound, m.p. ca. 82°-84° C.

reactant | N-methyl-N-[2-(2-pyridinyl)ethyl]-2-propenamide | 0.005 mole, 0.95 g | CN(C(C=C)=O)CCC1=NC=CC=C1 | C11H14N2O
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.005 mole, 1.19 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 ml | CO | CH4O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-methyl-N-[2-(2-pyridinyl)ethyl]propanamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)N(CCC1=NC=CC=C1)C | C25H36N2O2S
